US07429665B2
4-(4-((quinolin-2-yl)methoxy)phenyl)-3-(pyridin-4-yl)but-3-en-2-one
A mixture of 4-((quinolin-2-yl)methoxy)benzaldehyde (2.5 g, 9.5 mmol), 1-(pyridin-4-yl)propan-2-one (1.3 g, 9.5 mmol) and piperidine (162 mg, 1.9 mmol) in toluene (50 mL) was heated at reflux for 18 h, concentrated, and the residue chromatographed on silica eluting with a gradient of ethyl acetate in hexanes giving impure title substance (2.4 g) as a yellow solid which was chromatographed again on silica eluted with 1% and 2% methanol in dichloromethane containing 0.5% concentrated ammonium hydroxide giving a 3:1 mixture of the title substance contaminated with the pyridyl starting material. Yield 2.0 g, 55%. The title substance appeared to be a 10:1 mixture of two isomers by NMR. 1H NMR (CDCl3, 400 mHz, partial) δ 2.35 (s, 3H, major isomer), 2.23 (s, 3H, minor isomer). HPLC-MS 6.09 min, m/e 381 (MH+).

reactant | 4-((quinolin-2-yl)methoxy)benzaldehyde | 9.5 mmol, 2.5 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=O)C=C1 | C17H13NO2
reactant | 1-(pyridin-4-yl)propan-2-one | 9.5 mmol, 1.3 g | N1=CC=C(C=C1)CC(C)=O | C8H9NO
reactant | piperidine | 1.9 mmol, 162 mg | N1CCCCC1 | C5H11N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-((quinolin-2-yl)methoxy)phenyl)-3-(pyridin-4-yl)but-3-en-2-one | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C=C(C(C)=O)C1=CC=NC=C1 | C25H20N2O2
